US05225431
(b) 2-(4-Acetamidophenyl)ethyl acetate
A solution of acetyl chloride (35.6 ml) in dioxan (110 ml) was added dropwise at 0° C. to a stirred mixture of p-aminophenethyl alcohol (34.3 g, Aldrich) and triethylamine (37.5 g) in dioxan (110 ml). When addition was complete, the mixture was stirred at room temperature for 17 hours, then poured into 2N aqu. HCl, saturated with NaCl, and extracted with ethyl acetate (×3). The combined extracts were washed with water and brine, dried over MgSO4 and evaporated in vacuo to give the desired product as a brown solid (55.3 g).

reactant | acetyl chloride | 35.6 ml | C(C)(=O)Cl | C2H3ClO
reactant | p-aminophenethyl alcohol | 34.3 g | NC1=CC=C(CCO)C=C1 | C8H11NO
reactant | triethylamine | 37.5 g | C(C)N(CC)CC | C6H15N
reactant | dioxan | 110 ml | O1CCOCC1 | C4H8O2
reactant | dioxan | 110 ml | O1CCOCC1 | C4H8O2
product | 2-(4-Acetamidophenyl)ethyl acetate | 55.3 g | C(C)(=O)OCCC1=CC=C(C=C1)NC(C)=O | C12H15NO3
